US06521658B1
1-methyl-2-oxo-1,2-dihydro-4-pyridinyl 3,4,5-trimethoxybenzenesulfonate
A solution of 4-hydroxy-1-methyl-1H-pyridin-2-one ([40357-87-7], 44.9 mg, 0.358 mmol) in dioxane (2 mL) and DMF (1 mL) was treated with triethylamine (0.15 mL) and 3,4,5-trimethoxybenzenesulfonylchloride (97.1 mg, 0.358 mmol), stirred for 48 hours at room temperature, diluted with ethyl acetate, washed with 1.1M NaHSO4, dried (MgSO4), filtered and concentrated. Chromatography of the concentrate on silica gel with 40% ethyl acetate/hexane provided 47 mg of the desired compound.

reactant | 4-hydroxy-1-methyl-1H-pyridin-2-one | 0.358 mmol, 44.9 mg | OC1=CC(N(C=C1)C)=O | C6H7NO2
reactant | triethylamine | 0.15 mL | C(C)N(CC)CC | C6H15N
reactant | 3,4,5-trimethoxybenzenesulfonylchloride | 0.358 mmol, 97.1 mg | COC=1C=C(C=C(C1OC)OC)S(=O)(=O)Cl | C9H11ClO5S
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-methyl-2-oxo-1,2-dihydro-4-pyridinyl 3,4,5-trimethoxybenzenesulfonate | 47 mg | COC=1C=C(C=C(C1OC)OC)S(=O)(=O)OC1=CC(N(C=C1)C)=O | C15H17NO7S
